US03985882
Following the procedure set forth in Example 1, 2-ethyltetrahydroquinoline is mixed with diethyl ethoxymethylenemalonate and heated to 125° to 130° C. for 2 hours. Polyphosphoric acid is added, and the mixture is heated at 115° C. for 1 hour. The mixture is poured into water, neutralized with 40 percent sodium hydroxide, and the product is isolated and saponified in 10 percent sodium hydroxide solution. The solution is neutralized, and the solid product, 6,7-dihydro-5-ethyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid, is isolated by filtration.

reactant | 2-ethyltetrahydroquinoline | C(C)C1NC2=CC=CC=C2CC1 | C11H15N
reactant | diethyl ethoxymethylenemalonate | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | water | O | H2O
solvent | sodium hydroxide | [OH-].[Na+]
product | 6,7-dihydro-5-ethyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | C(C)C1CCC2=C3C(C(C(=CN13)C(=O)O)=O)=CC=C2 | C15H15NO3
